US06537987B1
trans-7-Chloro-5-(2,3-ethylenedioxyphenyl)-1-neopentyl-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic Acid
Aqueous hydrogen peroxide (30% by weight; 69 mL, 605 mmol) was added to a solution of [trans-7-chloro-5-(2,3-ethylenedioxyphenyl)-1-neopentyl-1,2,3,5-tetrahydro-4,1-benzoxazepin-3-yl]-acetaldehyde (250 mg, 582 mmol), aqueous sodium phosphate monobasic (63 mg in 1 mL water) and acetonitrile (1.25 mL). Sodium chlorite (1M in water; 640 mL, 640 mmol) was then added dropwise. After 45 minutes, the reaction mixture was quenched with saturated aqueous sodium sulfite, concentrated, taken up in water and extracted with ethyl acetate (3×). The combined organics were washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered, concentrated under reduced pressure, and purified by flash column chromatography (2% methanol/chloroform) to give 170 mg (66%) of the title compound as a white foam.

reactant | hydrogen peroxide | 605 mmol, 69 mL | OO | H2O2
reactant | [trans-7-chloro-5-(2,3-ethylenedioxyphenyl)-1-neopentyl-1,2,3,5-tetrahydro-4,1-benzoxazepin-3-yl]-acetaldehyde | 582 mmol, 250 mg | ClC=1C=CC2=C([C@H](O[C@@H](CN2CC(C)(C)C)CC=O)C2=C3C(=CC=C2)OCCO3)C1 | C24H28ClNO4
reactant | sodium phosphate monobasic | 1 mL, 63 mg | OP(=O)(O)[O-].[Na+]
reactant | Sodium chlorite | 640 mmol, 1M, 640 mL | Cl(=O)[O-].[Na+]
solvent | acetonitrile | 1.25 mL | C(C)#N | C2H3N
product | trans-7-Chloro-5-(2,3-ethylenedioxyphenyl)-1-neopentyl-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic Acid | 170 mg, 66% | ClC=1C=CC2=C([C@H](O[C@@H](CN2CC(C)(C)C)CC(=O)O)C2=C3C(=CC=C2)OCCO3)C1 | C24H28ClNO5
